US08084481B2
2-[(3-chloro-4-methyl-2-thienyl)carbonyl]-N-isobutylhydrazinecarboxamide
1.00 g (5.25 mmol) of 3-chloro-4-methylthien-2-ylcarboxylic acid hydrazide are placed in 10 ml THF at room temperature. 520 mg (5.25 mmol) of isobutyl isocyanate, dissolved in 2 ml THF, are rapidly added dropwise with stirring. The mixture is further stirred overnight at room temperature. For the workup, the reaction mixture is treated with 10 ml diethyl ether, cooled in the water/ice-bath to about 0° C., and the resulting precipitate recovered by filtration, washed with diethyl ether and dried in vacuo. 1.29 g (85% of theory) of the target compound are thus obtained.

reactant | 3-chloro-4-methylthien-2-ylcarboxylic acid hydrazide | 5.25 mmol, 1.00 g | ClC1=C(SC=C1C)C(=O)NN | C6H7ClN2OS
reactant | isobutyl isocyanate | 5.25 mmol, 520 mg | C(C(C)C)N=C=O | C5H9NO
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-[(3-chloro-4-methyl-2-thienyl)carbonyl]-N-isobutylhydrazinecarboxamide | ClC1=C(SC=C1C)C(=O)NNC(=O)NCC(C)C | C11H16ClN3O2S
